US05068392
Preparation of N-(2-Carbomethoxy-4-bromo-phenyl)acetamide
A stirred solution consisting of 14.8 g of N-(2-carbomethoxyphenyl)acetamide and 75 mL of acetic acid was cooled in an ice-acetone bath and 6 mL of bromine were added dropwise. The cooling bath was removed and the solution was stirred for 17 hr. The solution was diluted with 100 mL of methylene chloride and was washed with water. The organic phase was dried over anhydrous sodium sulfate and the solvent was removed in vacuo. The product was purified by elution from a silica gel column with 9:1 methylene chloride: ethyl acetate, which afforded 17.9 g of product as a white solid (m.p. 131°-133° C.). 1H NMR CDCl3) 88.66 (d, 9.0 Hz, 1H), 8.15 (d, 2.0 Hz, 1H), 7.63 (dd, 9.0 Hz, 2.0 Hz, lH), 3.98 (s, 3H, OCH3), 2.27 (s, 3H, COCH3).

reactant | N-(2-carbomethoxyphenyl)acetamide | 14.8 g | C(=O)(OC)C1=C(C=CC=C1)NC(C)=O | C10H11NO3
reactant | bromine | 6 mL | BrBr | Br2
solvent | acetic acid | 75 mL | C(C)(=O)O | C2H4O2
product | N-(2-Carbomethoxy-4-bromo-phenyl)acetamide | 17.9 g | C(=O)(OC)C1=C(C=CC(=C1)Br)NC(C)=O | C10H10BrNO3
